US08071584B2
1,1-Dimethylethyl 2,3-dihydro-1H-indole-1-carboxylate
A solution of di-tert-butylcarbonate (427.1 g, 1.96 mol) in CH2Cl2 (500 mL) was added dropwise at room temperature to a solution of indoline (212 g 1.78 mol) in CH2Cl2 (1000 mL). A solution of NaOH (85.3 g, 2.13 mol) in water (500 mL) was then added dropwise and the mixture was stirred overnight. The layers were separated and the organic layer was washed with 5% NaOH, brine and dried over Na2SO4. The organic layer was concentrated under reduced pressure and the crude product was crystallized with petroleum ether, giving 324 g (68%) of the title compound.

reactant | di-tert-butylcarbonate | 1.96 mol, 427.1 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | indoline | 1.78 mol, 212 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | NaOH | 2.13 mol, 85.3 g | [OH-].[Na+]
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1000 mL | C(Cl)Cl | CH2Cl2
solvent | water | 500 mL | O | H2O
product | 1,1-Dimethylethyl 2,3-dihydro-1H-indole-1-carboxylate | 324 g, 68% | N1(CCC2=CC=CC=C12)C(=O)OC(C)(C)C | C13H17NO2
